US09107916B2
A. [4-chloro-3-(cyclopropylmethoxy)phenyl]methanol
The title compound was prepared from 2-chloro-5-(hydroxymethyl)phenol and bromocyclopropylmethanol according to the procedure for the preparation of Example 111, part A. 1H NMR (400 MHz, CDCl3): δ 0.36-0.40 (2H, m), 0.62-0.67 (2H, m), 1.29-1.33 (1H, m), 1.76 (1H, s), 3.89 (2H, d, J=6.8 Hz), 4.64 (2H, s), 6.84-6.86 (1H, m), 6.94 (1H, d, J=2.0 Hz), 7.32 (1H, d, J=8.0 Hz).

reactant | 2-chloro-5-(hydroxymethyl)phenol | ClC1=C(C=C(C=C1)CO)O | C7H7ClO2
reactant | bromocyclopropylmethanol | BrC(O)C1CC1 | C4H7BrO
product | [4-chloro-3-(cyclopropylmethoxy)phenyl]methanol | ClC1=C(C=C(C=C1)CO)OCC1CC1 | C11H13ClO2
